US07618975B2
(2-Dimethylamino-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine
A mixture of (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine (150 mg, 0.5 mmol), 2.0 M dimethylamine in methanol (2.0 ml, 4 mmol) in a sealed tube was stirred at 70-80° C. overnight. The mixture was filled and the filtration was concentrated by vacuum. The residue was extracted with ethyl acetate and was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated. The crude product was purified by chromatography on silica gel with acetate and hexane (1:9) as eluent, yielding 128 mg of title compound (83%). 1H NMR (CDCl3): 7.44 (d, J=7.8 Hz, 1H), 7.36-7.30 (m, 1H), 7.11-7.08 (m, 2H), 6.90-6.85 (m, 3H), 6.65-6.59 (m, 1H), 3.82 (s, 3H), 3.51 (s, 3H), 3.30 (s, 6H).

reactant | (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.5 mmol, 150 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | dimethylamine | 2.0 M | CNC | C2H7N
reactant | methanol | 4 mmol, 2.0 ml | CO | CH4O
product | (2-Dimethylamino-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 128 mg, 83% | CN(C1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC)C | C18H20N4O
